US05684012
1,3-Bis[4-(4-fluorophenyl)piperazin-1-yl]-2-propanone 13a
To a solution of 1-(4-fluorophenyl)piperazine (12 g) in acetone (40 ml) kept at reflux temperature a solution of 1,3-dichloroacetone (1.3 g)in acetone (10 ml) was added dropwise. The mixture was refluxed for another 2 hours. Acetone was evaporated in vacuo. The remaining viscous oil was subjected to column chromatography on silica gel (eluted with ethyl acetate/ethanol/triethylamine 80:20:4). The title compound 13a crystallized from diethyl ether. Yield 0.6 g. Mp 106°-107° C. 1H NMR (CDCl3) δ2.70 (t,8 H), 3.15 (t,8 H), 3.45 (s, 4 H), 6.85-7.00 (m,8 H).

reactant | 1-(4-fluorophenyl)piperazine | 12 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 1,3-dichloroacetone | 1.3 g | ClCC(=O)CCl | C3H4Cl2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1,3-Bis[4-(4-fluorophenyl)piperazin-1-yl]-2-propanone | FC1=CC=C(C=C1)N1CCN(CC1)CC(CN1CCN(CC1)C1=CC=C(C=C1)F)=O | C23H28F2N4O
